US04526970
8-Cyano-5,6,7,8-tetrahydro-3,8-dimethylquinoline
A solution of 5,6,7,8-tetrahydro-8-lithio-3,8-dimethylquinoline (20 mM) was generated as described in Example 2 and allowed to react with t-butyldimethylsilyl isothiocyanate (20 mM) as described in Example 2. After 0.5 hours a solution of t-butyldimethylsilyl chloride (3.1 g, 20 mM) in THF (10 ml) was added and the mixture allowed to stand for 16 hours at ambient temperature. The reaction was quenched with 2N hydrochloric acid (50 ml). After 1 hour the aqueous layer was separated, basified (to pH9) and extracted with dichloromethane (2×50 ml) and the organic extracts were dried and evaporated. Kugelrohr distillation of the residue gave the nitrile title compound. (2.8 g, 75%) bp. 90°/0.01 mm (bath temp.)

reactant | 5,6,7,8-tetrahydro-8-lithio-3,8-dimethylquinoline | 20 mM | [Li]C1(CCCC=2C=C(C=NC12)C)C
reactant | t-butyldimethylsilyl isothiocyanate | 20 mM | [Si](C)(C)(C(C)(C)C)N=C=S | C7H15NSSi
reactant | t-butyldimethylsilyl chloride | 20 mM, 3.1 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 8-Cyano-5,6,7,8-tetrahydro-3,8-dimethylquinoline | C(#N)C1(CCCC=2C=C(C=NC12)C)C | C12H14N2
